US09318764B2
Under nitrogen atmosphere, a three-neck flask equipped with a reflux condenser and having a volume of 100 ml was charged with each of 126.7 g (0.393 mol) of 1,1-bis(trifluoromethanesulfonyl)-3-butene, 68.7 g of toluene, 15.2 mg (0.0002 parts by mass relative to BTSB) of dichloro(1,5-cyclooctadiene)platinum(II) (made by Tokyo Chemical Industry Co., Ltd.), and 50.0 g (0.4 parts by mass relative to BTSB) of dichloromethylsilane (made by Tokyo Chemical Industry Co., Ltd.). Continuously, under nitrogen atmosphere, stirring was conducted for three minutes for mixing. After that, while this flask was heated by immersion in an oil bath adjusted to 50° C., an addition reaction was conducted for 30 minutes. After termination of the addition reaction, toluene was distilled out under reduced pressure and recovered. Then, a distillation under reduced pressure was conducted. Under a reduced pressure of 533 Pa (4 mmHg), it was distilled out by heating at 105-115° C., thereby obtaining 163.0 g of 4,4-bis(trifluoromethanesulfonyl)butyldichloromethylsilane (in the following, it may be abbreviated as BTSB-DCMS) as a perfluoromethidization agent.

reactant | 1,1-bis(trifluoromethanesulfonyl)-3-butene | 0.393 mol, 126.7 g | FC(S(=O)(=O)C(CC=C)S(=O)(=O)C(F)(F)F)(F)F | C6H6F6O4S2
reactant | dichloromethylsilane | 50.0 g | ClC(Cl)[SiH3] | CH4Cl2Si
catalyst | dichloro(1,5-cyclooctadiene)platinum(II) | 15.2 mg | C1/C=C\CC/C=C\C1.Cl[Pt]Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 68.7 g | C1(=CC=CC=C1)C | C7H8
product | 4,4-bis(trifluoromethanesulfonyl)butyldichloromethylsilane | 163.0 g | FC(S(=O)(=O)C(CCC[SiH2]C(Cl)Cl)S(=O)(=O)C(F)(F)F)(F)F | C7H10Cl2F6O4S2Si
